US06825170B2
(2E)-3-[4-(3-Pyridinyl)phenyl]-2-propenal
2M aq. Na2CO3 (1 mL) and a solution of 3-pyridinylboronic acid (148 mg, 1.20 mmol) in methanol (1 mL) were added to a solution of 4-bromocinnamaldehyde (211 mg, 1.00 mmol, prepared as described in Tetrahedron 1998, 54, 10761) and tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.030 mmol) in toluene (2 mL) and the mixture was heated to reflux for 36 h. The cooled reaction mixture was diluted with dichloromethane, washed with sat. aq. NaHCO3 and brine, dried (MgSO4), and concentrated. Purification by chromatography (SiO2, 1:1 hexane/ethyl acetate) yielded the title compound. MS 210 (M+H)+.

reactant | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-pyridinylboronic acid | 1.20 mmol, 148 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 4-bromocinnamaldehyde | 1.00 mmol, 211 mg | BrC1=CC=C(C=CC=O)C=C1 | C9H7BrO
solvent | methanol | 1 mL | CO | CH4O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2E)-3-[4-(3-Pyridinyl)phenyl]-2-propenal | N1=CC(=CC=C1)C1=CC=C(C=C1)/C=C/C=O | C14H11NO
